US07153878B2
3-[4-(2-{2-[6-(2-Fluoro-phenyl)-pyridin-3-yl]-5-methyl-thiazol-4-yl}-ethoxy)-2-methyl-phenyl]-propionic acid tert-butyl ester
A solution of 3-(4-hydroxy-2-methyl-phenyl)-propionic acid tert-butyl ester (120 mg, 0.5 mmol) and 2-{2-[6-(2-fluoro-phenyl)-pyridin-3-yl]-5-methyl-thiazol-4-yl}-ethanol (106 mg, 0.323 mmol) in toluene (3.0 mL) is degassed and filled with nitrogen for 3 times. Tributylphosphine (0.124 mL, 0.5 mmol) is added to the reaction mixture under nitrogen at 0° C., followed by addition of of 1,1′-(azodicarbonyl)-dipiperidine (120 mg, 0.5 mmol). The reaction mixture is allowed to warm to room temperature and stirred overnight, the mixture is loaded on silica gel column. Chromatography gave the title compound (150 mg).

reactant | 3-(4-hydroxy-2-methyl-phenyl)-propionic acid tert-butyl ester | 0.5 mmol, 120 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)C)=O | C14H20O3
reactant | 2-{2-[6-(2-fluoro-phenyl)-pyridin-3-yl]-5-methyl-thiazol-4-yl}-ethanol | 0.323 mmol, 106 mg | FC1=C(C=CC=C1)C1=CC=C(C=N1)C=1SC(=C(N1)CCO)C | C17H15FN2OS
reactant | Tributylphosphine | 0.5 mmol, 0.124 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 0.5 mmol, 120 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-(2-{2-[6-(2-Fluoro-phenyl)-pyridin-3-yl]-5-methyl-thiazol-4-yl}-ethoxy)-2-methyl-phenyl]-propionic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(SC1C)C=1C=NC(=CC1)C1=C(C=CC=C1)F)C)=O | C31H33FN2O3S
